US04563476
A mixture of 6-hydroxy-3,4-dihydrobenzopyran-7-carboxaldehyde (429 mg, 2.41 mmol) and aniline (224 mg, 2.42 mmol) in methanol (30 mL) was warmed and the methanol, which distilled over, was collected. When 10 mL of methanol had been collected, the mixture was allowed to cool and the intermediate Schiff's base crystallized out. This material was collected and redissolved in fresh methanol (30 mL). Sodium borohydride (1 molar equiv.) was added in portions and the color immediately discharged. The mixture was concentrated to 50% of its original volume, then poured into an excess of water (100 mL). The aqueous solution was rendered acidic with 2N HCl, filtered to remove any insoluble material, then basified with 7%, NaHCO3. The product, which precipitated, was collected by filtration and dried to afford 6-hydroxy-7-phenylaminomethyl-3,4-dihydrobenzopyran (277 mg, 49%), m.p. 135°-137° C.

reactant | 6-hydroxy-3,4-dihydrobenzopyran-7-carboxaldehyde | 2.41 mmol, 429 mg | OC=1C(=CC2=C(CCCO2)C1)C=O | C10H10O3
reactant | aniline | 2.42 mmol, 224 mg | NC1=CC=CC=C1 | C6H7N
solvent | methanol | 30 mL | CO | CH4O
product | 6-hydroxy-7-phenylaminomethyl-3,4-dihydrobenzopyran | 277 mg, 49% | OC=1C(=CC2=C(CCCO2)C1)CNC1=CC=CC=C1 | C16H17NO2
